US05646173
211 mg of N-[2-(8-methoxy-1H-benz[g]indol-1-yl)ethyl]-acetamide were heated to 140° for 9.5 hr. under argon in 3 ml of ethylene glycol/water 2:1 in the presence of 0.25 g of potassium hydroxide. The reaction mixture was left to cool and was poured into 20 ml of semi-concentrated sodium chloride solution. The mixture was extracted three times with diethyl ether and the combined extracts were washed once with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. The crude product was dissolved in 2 ml of methanol and 70 mg of fumaric acid were added. After the addition of 5 ml of diethyl ether, the crystals were filtered off and recrystallized from 8.5 ml of methanol/DMF 16:1. 142 mg (53%) of 2-(8-methoxy-1H-benz[g]indol-1-yl)-ethylamine fumarate (1:1) were obtained as white crystals with m.p. 200°-201°.

reactant | N-[2-(8-methoxy-1H-benz[g]indol-1-yl)ethyl]-acetamide | 211 mg | COC1=CC=2C(=CC=C3C=CN(C23)CCNC(C)=O)C=C1 | C17H18N2O2
reactant | potassium hydroxide | 0.25 g | [OH-].[K+]
reactant | sodium chloride | 20 ml | [Cl-].[Na+]
reactant | ethylene glycol water | 3 ml | C(CO)O.O
product | 2-(8-methoxy-1H-benz[g]indol-1-yl)-ethylamine fumarate | 142 mg, 53% | C(\C=C\C(=O)O)(=O)O.COC1=CC=2C(=CC=C3C=CN(C23)CCN)C=C1 | InChI=1S/C15H16N2O.C4H4O4/c1-18-13-5-4-11-2-3-12-6-8-17(9-7-16)15(12)14(11)10-13;5-3(6)1-2-4(7)8/h2-6,8,10H,7,9,16H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
